US05538976
5-[N-(4-Cyanophenyl)-N-(4-fluorobenzyl)amino]pyrimidine
Starting compounds: 5-[(4-cyanophenyl)amino]pyrimidine and 4-fluorobenzyl bromide

reactant | 5-[(4-cyanophenyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
product | 5-[N-(4-Cyanophenyl)-N-(4-fluorobenzyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)N(CC1=CC=C(C=C1)F)C=1C=NC=NC1 | C18H13FN4
